US04202832
260 ml. of concentrated ammonia solution were treated under an atmosphere of argon, and while cooling by means of ice/methanol bath at ≤-10° C. within about 20 minutes, with 164.5 g. of carbon disulfide and the mixture was subsequently stirred for an additional 15 minutes at the same temperature. 245 G. of 4-chlorobenzylamine dissolved in 122 ml. of acetonitrile were then slowly added, the temperature still maintained at ≤-10° C. Subsequently, the mixture was stirred overnight at room temperature and then cooled in an ice-bath to 0° C. The precipitated crystals were removed by filtration under suction, washed successively with acetonitrile and diethyl ether and dried to a constant weight under reduced pressure at 70°-80° C., and 390 g. of ammonium (N-4-chlorobenzyl)dithiocarbamate having a melting point of 140°-142° C. was obtained.

reactant | ammonia | N | H3N
reactant | carbon disulfide | C(=S)=S | CS2
reactant | 4-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | acetonitrile | C(C)#N | C2H3N
product | ammonium (N-4-chlorobenzyl)dithiocarbamate | ClC1=CC=C(CNC([S-])=S)C=C1.[NH4+] | InChI=1S/C8H8ClNS2.H3N/c9-7-3-1-6(2-4-7)5-10-8(11)12;/h1-4H,5H2,(H2,10,11,12);1H3
